US05859251
3,4,3',4'-tetradecyloxy-5,5'-bis(benzothiazol-2-yl)-2,2'-bithiophene
A solution of 2-bromo-3,4-bis(decyloxy)-5-(benzothiazol-2-yl)-thiophene (12.2 g 20 mmol), and hexabutyl ditin (5.8 g, 10 mmol) in dioxane (100 ml), (freshly distilled from sodium after treatment with potassium hydroxide), was degassed by bubbling nitrogen through the solution for 20 min. Under nitrogen, tetrakistriphenylphosphinopalladium (0.468 g) was added and the mixture was heated at 100° C. for 20 hr. After cooling, pyridine (5 ml) was added and the resulting mixture allowed to stand for 1 hr. The separated solids were filtered and the filtrate diluted with an equal volume of water. The mixture was extracted with an equal volume of toluene, dried over magnesium sulfate and concentrated. The residue was combined with the initial solids and chromatographed over 250 g of silica gel. Elution with 3:1 and 2:1 heptane:toluene gave the desired product which was recrystallized from heptane to give 7.02 g (66.5% yield) mp 93.9°-95° C. Mass Spec. m/z 916 (M+ --C10H20). Elemental Analysis: Calculated for C62H92N2O4S4 : C, 70.36, H, 8.77, N, 2.65, and S, 12.10%. Found: C, 69.98, H, 8.90, N, 2.59, and S, 11.98 %.

reactant | 2-bromo-3,4-bis(decyloxy)-5-(benzothiazol-2-yl)-thiophene | 20 mmol, 12.2 g | BrC=1SC(=C(C1OCCCCCCCCCC)OCCCCCCCCCC)C=1SC2=C(N1)C=CC=C2 | C31H46BrNO2S2
reactant | sodium | [Na] | Na
reactant | potassium hydroxide | [OH-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3,4,3',4'-tetradecyloxy-5,5'-bis(benzothiazol-2-yl)-2,2'-bithiophene | 66.5% yield | C(CCCCCCCCC)OC1=C(SC(=C1OCCCCCCCCCC)C=1SC2=C(N1)C=CC=C2)C=2SC(=C(C2OCCCCCCCCCC)OCCCCCCCCCC)C=2SC1=C(N2)C=CC=C1 | C62H92N2O4S4
